datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[S:5][H:15])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[S:5][C:16]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7].[H:15],71.128
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][S:11][H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10](=[C:9]([H:12])[H:13])[S:11][H:14],-17.5728
[C:3]([H:4])([H:5])[H:6].[O:0]=[C:1]=[S:2]>>[O:0][C:1](=[S:2])[C:3]([H:4])([H:5])[H:6],54.1828
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:35])([H:36])[H:37])[C:31]([H:38])([H:39])[H:40])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:32])[H:33])[H:34])([C:30]([H:35])([H:36])[H:37])[C:31]([H:38])([H:39])[H:40])[H:15])([H:13])[H:14],49.1202
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])([H:15])[H:16])[H:14])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])=[C:5]([H:14])[C:6]([H:15])([H:16])[C:7]([H:17])[C:8]1([H:18])[H:19])[H:9],118.616
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([C:2]([H:9])([H:10])[H:11])([H:8])[C:3]([H:12])([H:13])[O:4]1.[O:5][H:14],91.6296
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10])([H:3])[H:4],30.083
[O:0][C:1](=[O:2])[C:3](=[O:4])[O:5][H:6]>>[C:3](=[O:4])[O:5][H:6].[O:0]=[C:1]=[O:2],16.736
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([O:12][O:13][H:38])([H:36])[H:37])([H:34])[H:35])[H:33])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([O:12][O:13])([H:36])[H:37])([H:34])[H:35])([H:33])[H:38])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16],52.3
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]([c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[S:12][c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24],6.276
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32],98.7424
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])=[C:7]([C:8]#[C:9][H:18])[H:17])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])[C:7]1([C:8]#[C:9][H:18])[H:17])[H:10],139.997
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],33.0536
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[C:9](=[O:10])[H:11]>>[C-:9]#[O+:10].[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])([H:4])[H:11],0.0
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]1([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([C:5]([H:11])([H:12])[H:13])=[C:6]1[H:15])([H:7])[H:8].[H:14],191.2088
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:7],12.7194
